US05571785
N-trityl-L-Phenylalanine (20.3 g, 50 mmo1), prepared as described in J.Org. Chem. 47, 1324 (1982) was dissolved in anhydrous terahydrofurane (150 ml) and added with anhydrous N-hydroxybenzotriazole (8 gr). The mixture was cooled at 0° C. and treated with 1,3-dicyclohexylcarbodiimide (11.7 gr, 50 mmol) and, after 10 minutes, added dropwise with a solution of L-Leucylglycine ethylester p-toluensulphonate salt (20 g, 50 mmol) in in a mixture of anhydrous tetrahydrofurane (100 ml) and N-methylmorpholine (7 ml). The reaction mixture was kept at 0° C. for one hour and overnight at room temperature, then was filtered and the solvent was removed under reduced pressure. The crude material, dissolved with ethyl acetate, was washed in sequence with cooled 5% aqueous citric acid (3×100 ml), cooled 5% aqueous sodium bicarbonate and water, then concentrated and chromatographed on silica gel eluting with a mixture of methylene chloride and methanol (99:1 by volume) to give N-trityl-L-Phenylalanyl-L-leucylglycine ethyl ester (18 g, 30 mmol) that was converted into the corresponding acid 8a (17 g) by treatment in ethyl alchool 95% (400 ml) with 1N sodium hydroxide (30 ml) for two hours at room temperature.

reactant | N-trityl-L-Phenylalanine | 20.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O | C28H25NO2
reactant | N-hydroxybenzotriazole | 8 gr | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3-dicyclohexylcarbodiimide | 50 mmol, 11.7 gr | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | L-Leucylglycine ethylester p-toluensulphonate salt | 50 mmol, 20 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C)OC(CNC([C@@H](N)CC(C)C)=O)=O
reactant | N-methylmorpholine | 7 ml | CN1CCOCC1 | C5H11NO
solvent | terahydrofurane | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | N-trityl-L-Phenylalanyl-L-leucylglycine ethyl ester | 30 mmol, 18 g | C(C)OC(CNC([C@@H](NC([C@@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1)=O)CC(C)C)=O)=O | C38H43N3O4
